US07504412B2
N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-6-(4-fluorophenyl)nicotinamide hydrochloride
Operations similar to those of Example 1 were conducted using 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine and 6-(4-fluorophenyl)nicotinic acid. The resulting solid was dissolved in ethyl acetate, followed by addition of 4N hydrochloric acid-ethyl acetate solution and concentration under reduced pressure. The title compound was obtained as white solid.

reactant | 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C11H11N3O2
reactant | 6-(4-fluorophenyl)nicotinic acid | FC1=CC=C(C=C1)C1=NC=C(C(=O)O)C=C1 | C12H8FNO2
reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-6-(4-fluorophenyl)nicotinamide hydrochloride | Cl.C1(CC1)C=1N=C2N(C=C(C=C2)NC(C2=CN=C(C=C2)C2=CC=C(C=C2)F)=O)C1C | InChI=1S/C23H19FN4O.ClH/c1-14-22(16-2-3-16)27-21-11-9-19(13-28(14)21)26-23(29)17-6-10-20(25-12-17)15-4-7-18(24)8-5-15;/h4-13,16H,2-3H2,1H3,(H,26,29);1H
